US05527800
A 10 ml suspension of 1.0 g of 3-(1-acetylpiperidin-4-yl)-1-(1,2,2a,3,4,5-hexahydrobenz[cd]indol-6-yl)-1-propanone, 2.3 g of ethyl iodide and 0.53 g of potassium carbonate in ethanol was stirred at 60° to 70° C. for 12 hours. After the solvent was distilled off under reduced pressure, water was added to the residue, after which the reaction product was extracted with dichloromethane. After the extract was dried over anhydrous sodium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: ethyl acetate) to yield 0.82 g of 3-(1-acetylpiperidin-4-yl)-1-(1-ethyl-1,2,2a,3,4,5-hexahydrobenz[cd]indol-6-yl)-1-propanone as a colorless oily substance.

reactant | 3-(1-acetylpiperidin-4-yl)-1-(1,2,2a,3,4,5-hexahydrobenz[cd]indol-6-yl)-1-propanone | 1.0 g | C(C)(=O)N1CCC(CC1)CCC(=O)C1=C2C=3C(CNC3C=C1)CCC2 | C21H28N2O2
reactant | ethyl iodide | 2.3 g | C(C)I | C2H5I
reactant | potassium carbonate | 0.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 3-(1-acetylpiperidin-4-yl)-1-(1-ethyl-1,2,2a,3,4,5-hexahydrobenz[cd]indol-6-yl)-1-propanone | 0.82 g | C(C)(=O)N1CCC(CC1)CCC(=O)C1=C2C=3C(CN(C3C=C1)CC)CCC2 | C23H32N2O2
